US06974877B2
A mixture of 1.0 gram of 7,14-dihydropentacene-5,12-dione and pentacene-5,7(12H,14H)-dione, and 10 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 1.03 grams of sodium borohydride and stirring was continued at room temperature overnight. To the mixture was added 10 mL of 2-methoxyethyl ether and 6.3 mL of methanol and stirring was continued for 1.5 hours at room temperature. To the mixture was added 15 mL of acetic acid and 10 mL of concentrated hydrochloric acid. The mixture was stirred for one hour at room temperature and heated to 60° C. for one hour. To the mixture was added 50 mL of water, and the resulting solid was isolated by filtration and washed with water. The solid was washed with tetrahydrofuran until a pale filtrate resulted. The solid was washed with heptane and dried to give pentacene.

reactant | 7,14-dihydropentacene-5,12-dione | 1.0 gram | C1=CC=CC=2C(C3=CC=4CC5=CC=CC=C5C(C4C=C3CC12)=O)=O | C22H14O2
reactant | pentacene-5,7(12H,14H)-dione | C1=CC=CC=2C(C3=CC=4C(C5=CC=CC=C5CC4C=C3CC12)=O)=O | C22H14O2
solvent | 2-methoxyethyl ether | 10 mL | COCCOCCOC | C6H14O3
product | pentacene | C1=CC=CC2=CC3=CC4=CC5=CC=CC=C5C=C4C=C3C=C12 | C22H14
